US04348404
To a cooled (-78°) suspension of 5.0 g (14.7 mmoles) of 4,5-bis(4-fluorophenyl)-1-(2-tetrahydropyranyl)-1H-imidazole in 75 ml of ether containing 1.9 g (16.4 mmoles) of tetramethylethylenediamine was added dropwise 18.0 ml (28.8 mmoles of a 1.6 M solution of n-butyl lithium solution. After stirring at -78° for 10 minutes, a solution of 6.1 g (29 mmoles) of trifluoroacetic anhydride in 25 ml of ether was added dropwise. The reaction mixture was allowed to warm to room temperature and then washed with 10% aqueous sodium bicarbonate solution. The ether layer was dried and evaporated. The oily residue was purified by chromatography on silica gel using toluene as the eluent to give 1.65 g of 1-(4,5-bis(4-fluorophenyl)-1-(2-tetrahydropyranyl)-1H-imidazol-2-yl]-2,2,2-trifluoro-1-ethanone as a semicrystalline colorless oil.

reactant | 4,5-bis(4-fluorophenyl)-1-(2-tetrahydropyranyl)-1H-imidazole | 14.7 mmoles, 5.0 g | FC1=CC=C(C=C1)C=1N=CN(C1C1=CC=C(C=C1)F)C1OCCCC1 | C20H18F2N2O
reactant | tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | trifluoroacetic anhydride | 29 mmoles, 6.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 16.4 mmoles, 75 ml, 1.9 g | CCOCC | C4H10O
product | 1-(4,5-bis(4-fluorophenyl)-1-(2-tetrahydropyranyl)-1H-imidazol-2-yl]-2,2,2-trifluoro-1-ethanone | 1.65 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)C1OCCCC1)C(C(F)(F)F)=O | C22H17F5N2O2
